US04500526
7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(propargyloxyimino)acetamido]-3-(2-amino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate (If)
A mixture of diphenylmethyl 7-[(Z)-2-(propargyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate [VIIf] (580 mg, 0.61 mmole), and 2-aminothiazolo[4,5-c]pyridine (94 mg, 0.62 mmole) in 2.5 ml of dry DMSO was stirred at room temperature for 30 minutes. The mixture was diluted with ethyl acetate (50 ml), and the resulting precipitate was collected by filtration and dissolved in CHCl3 --CH3OH (4:1, 50 ml). The solution was filtered and evaporated, and the residue was triturated with iso-propyl ether. The precipitate was collected by filtration to give 404 mg of crude quaternary salt [XIIIf], which was mixed with anisole (0.4 ml) and treated with 95% TFA (5 ml) under ice cooling. The solution was stirred at room temperature for an hour and then evaporated. The residue was triturated with iso-propyl ether and the resulting precipitate was collected by filtration to afford 282 mg of crude product If, which was purified on an HP-20 column (50 ml). Elution with water (150 ml), 30% aqueous CH3OH (200 ml) and 50% aqueous CH3OH (200 ml) gave 39 mg (5%) of If as pale yellow powder. Mp. 138°~150° C. (dec.). Estimated purity by HPLC: 45%.

reactant | diphenylmethyl 7-[(Z)-2-(propargyloxyimino)-2-(2-tritylaminothiazol-4-yl)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 0.61 mmole, 580 mg | C(C#C)O\N=C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H38IN5O5S2
reactant | 2-aminothiazolo[4,5-c]pyridine | 0.62 mmole, 94 mg | NC=1SC2=C(C=NC=C2)N1 | C6H5N3S
reactant | anisole | 0.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-[(Z)-2-(2-Aminothiazol-4-yl)-2-(propargyloxyimino)acetamido]-3-(2-amino-5-thiazolo[4,5-c]pyridinio)methyl-3-cephem-4-carboxylate | 282 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC3=C(C=C2)SC(=N3)N)C(=O)[O-])C1=O)=N/OCC#C | C22H18N8O5S3
